### PR TITLE
[Merged by Bors] - chore(CategoryTheory/Sites): remove two uses of `erw` in `compatiblePreservingOfFlat`

### PR DESCRIPTION
**Pull request by euprunin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/CoverPreserving.lean [hunk 1]
```diff
@@ -121,11 +121,9 @@ theorem compatiblePreservingOfFlat {C : Type u₁} [Category.{v₁} C] {D : Type
     -/
   let c' := IsCofiltered.cone (c.toStructuredArrow ⋙ StructuredArrow.pre _ _ _)
   have eq₁ : f₁ = (c'.pt.hom ≫ G.map (c'.π.app left).right) ≫ eqToHom (by simp) := by
-    erw [← (c'.π.app left).w]
     dsimp [c]
     simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/CoverPreserving.lean]: Would `simp [c]` work as a proof?

Comment (euprunin) [reply Mathlib/CategoryTheory/Sites/CoverPreserving.lean]: @joelriou Thanks a lot for reviewing! Good catch. Now doing `simp [c]`.

**Comment by JovanGerb** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
